US05658930
Preparation of Ethyl [3-[(Benzylsulfonyl)amino]-6-methyl-2-oxo-1,2-dihydropyridyl]acetate
A stirred solution of ethyl (3-amino-6-methyl-2-oxo-1,2-dihydropyridyl)acetate (0.55 g, 2.6 mmole) and 2,4,6-collidine (1.2 mL, 5.2 mmole) in tetrahydrofuran (10 mL) is cooled in an ice bath. A solution of benzylsulfonyl chloride (0.50 g, 2.6 mmole) in tetrahydrofuran (10 mL) is added over a 15 minute period. After addition is complete, the solution is stirred for 30 minutes at 0° C. The reaction mixture is diluted with ethyl acetate (100 mL), washed with 1.0N HCl (until aqueous layer is pH 1), water (10 mL), saturated sodium bicarbonate (10 mL), and brine (2×10 mL). The organic layer is dried over anhydrous magnesium sulfate, and the solvent is removed. The residue is chromatographed through silica gel using 0:100-20:80 ethyl acetate:dichloromethane as eluent to afford the title compound.

reactant | ethyl (3-amino-6-methyl-2-oxo-1,2-dihydropyridyl)acetate | 2.6 mmole, 0.55 g | NC=1C(N(C(=CC1)C)CC(=O)OCC)=O | C10H14N2O3
reactant | 2,4,6-collidine | 5.2 mmole, 1.2 mL | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | benzylsulfonyl chloride | 2.6 mmole, 0.50 g | C(C1=CC=CC=C1)S(=O)(=O)Cl | C7H7ClO2S
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | Ethyl [3-[(Benzylsulfonyl)amino]-6-methyl-2-oxo-1,2-dihydropyridyl]acetate | C(C1=CC=CC=C1)S(=O)(=O)NC=1C(N(C(=CC1)C)CC(=O)OCC)=O | C17H20N2O5S
